US07470680B2
6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one.
To tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidine-1-carboxylate (130 mg, 0.267 mmol) in CH2Cl2 (3 mL) was added TMS-I (163 μl, 1.20 mmol) at rt. The resulting brown solution was stirred at 60° C. over night. Partial of the solvent was removed on rotary vacuo, the residue was purified on reverse phase PrepHPLC to afford the expected product, 6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one (49.3 mg, 85%). 1H-NMR (400 MHz, MeOD) δ ppm 1.85 (dd, J=12.84, 3.53 Hz, 2 H) 2.12 (d, J=14.10 Hz, 3 H) 3.06-3.18 (m, 4 H) 3.42-3.52 (m, 3 H) 6.14 (t, J=2.14 Hz, 1 H) 7.20 (dt, J=2.96, 1.42 Hz, 1 H) 7.62 (s, 1 H); Mass spec 218.14 (MH+), Calc for C12H15N3O 217.12.

reactant | tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidine-1-carboxylate | 0.267 mmol, 130 mg | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)C2CCN(CC2)C(=O)OC(C)(C)C | C27H45N3O3Si
reactant | TMS-I | 1.20 mmol, 163 μl | [Si](C)(C)(C)I | C3H9ISi
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one | 49.3 mg, 85% | N1CCC(CC1)C1=CC2=C(NC1=O)C=CN2 | C12H15N3O
